US06011053
5-Chloro-indole-1-carbothioic acid isopropylamide
A stirred slurry of hexane washed potassium hydride (0.87 g, 21.8 mmol) in 50 mL of dry THF was treated portionwise with 5-chloroindole (3.3 g, 21.8 mmol). The mixture was heated at reflux until a clear solution was obtained. A solution of isopropyl isothiocyanate (2.2 g, 21.8 mmol) in 5 mL THF was slowly added and stirring was continued for 1 hour. The solvent was evaporated and the residue partitioned between EtOAc and 1N HCl. The organic layer was washed with brine, dried over Na2SO4 and concentrated in vacuo. The amber solids were recrystallized from EtOH to provide 3.4 g of the title compound as a tan solid, m.p. 135° C. (62% of theory).

reactant | hexane | CCCCCC | C6H14
reactant | potassium hydride | 21.8 mmol, 0.87 g | [H-].[K+]
reactant | 5-chloroindole | 21.8 mmol, 3.3 g | ClC=1C=C2C=CNC2=CC1 | C8H6ClN
reactant | isopropyl isothiocyanate | 21.8 mmol, 2.2 g | C(C)(C)N=C=S | C4H7NS
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 5-Chloro-indole-1-carbothioic acid isopropylamide | 3.4 g | C(C)(C)NC(=S)N1C=CC2=CC(=CC=C12)Cl | C12H13ClN2S
